US07745475B2
4-(Methoxymethyl)-1,3-thiazol-2-amine
Sodium hexamethyldisilazide (10M in THF, 0.67 mL, 0.67 mmol) was added to a solution of 4-(chloromethyl)-1,3-thiazol-2-amine (J. Indian Chem. Soc. 1960, 37, 241; 100 mg, 0.67 mmol) in methanol (5 mL) followed by stirring under argon at ambient temperature for 72 h. The solvent was then removed under reduced pressure and the residue was taken up in saturated aqueous sodium hydrogencarbonate (20 mL) and ethyl acetate (50 mL). The organic layer was separated then dried (MgSO4); filtered and evaporated. Purification by column chromatography, eluting with 80% to 100% ethyl acetate in hexanes, afforded the title compound as a colourless oil (20 mg, 21%).

reactant | Sodium hexamethyldisilazide | 0.67 mmol, 10M, 0.67 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 4-(chloromethyl)-1,3-thiazol-2-amine | 0.67 mmol, 100 mg | ClCC=1N=C(SC1)N | C4H5ClN2S
reactant | methanol | 5 mL | CO | CH4O
product | 4-(Methoxymethyl)-1,3-thiazol-2-amine | 20 mg, 21% | COCC=1N=C(SC1)N | C5H8N2OS
